US08957068B2
Step 3: Preparation of tert-butyl 3-hydroxy-2-methylbutan-2-ylcarbamate
To a solution of (S)-tert-butyl 2-methyl-4-oxopentan-3-ylcarbamate (2.65 g, 12.31 mmol) in MeOH (30 mL) at 0° C. was added portion wise NaBH4 (0.931 g, 24.62 mmol). Cold bath was removed and the reaction was stirred for 1 hour. HCl solution (1 M, 0.3 mL) was then added cautiously to quench the reaction. The reaction mixture was then concentrated and diluted with EtOAc (50 mL) and water (10 mL). The phases were separated and the aqueous layer was extracted with EtOAc (2×20 mL). The combined organics were then dried (Na2SO4) and concentrated. The residue was purified via silica gel flash chromatography (10-50% EtOAc-Hexanes) to afford the desired product as a white solid (2.05 g). LCMS m/z 240.2 (M+Na)+, Rt 0.69 min.

reactant | (S)-tert-butyl 2-methyl-4-oxopentan-3-ylcarbamate | 12.31 mmol, 2.65 g | CC(C)[C@@H](C(C)=O)NC(OC(C)(C)C)=O | C11H21NO3
reactant | NaBH4 | 24.62 mmol, 0.931 g | [BH4-].[Na+]
reactant | MeOH | 30 mL | CO | CH4O
product | tert-butyl 3-hydroxy-2-methylbutan-2-ylcarbamate | 2.05 g | OC(C(C)(C)NC(OC(C)(C)C)=O)C | C10H21NO3
